US05656642
1.50 g of 7-chloro-3-methylthio-4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole was added to a suspension of 15 g of Raney nickel in 30 ml of methanol. The mixture was stirred at room temperature for 1 hour. The Raney nickel was separated by decantation and washed with methanol. The decanted solution and the washings were combined and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (eluant:methylene chloride/methanol=30/1). The product was converted into a hydrochloride in ethanol to obtain 0.63 g of 7-chloro-4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole hydrochloride as a colorless amorphous.

reactant | 7-chloro-3-methylthio-4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole | 1.50 g | ClC=1C=CC(=C2C(C(NC12)=O)SC)C(=O)N1CCC(CC1)N(CCC1=CC=CC=C1)C | C24H28ClN3O2S
catalyst | Raney nickel | 15 g | [Ni] | Ni
solvent | methanol | 30 ml | CO | CH4O
product | 7-chloro-4-{4-[N-methyl-N-(2-phenylethyl)amino]-1-piperidinylcarbonyl}oxindole hydrochloride | 0.63 g | Cl.ClC=1C=CC(=C2CC(NC12)=O)C(=O)N1CCC(CC1)N(CCC1=CC=CC=C1)C | InChI=1S/C23H26ClN3O2.ClH/c1-26(12-9-16-5-3-2-4-6-16)17-10-13-27(14-11-17)23(29)18-7-8-20(24)22-19(18)15-21(28)25-22;/h2-8,17H,9-15H2,1H3,(H,25,28);1H
